US07314872B2
3-(R)-(4-(S)-Benzyl-2-oxo-oxazolidine-3-carbonyl)-5-cyclohexyl-pentanoic acid (1.76 g, 4.53 mmol, 1.0 eq.) dissolved in DMF (10 mL) and treated with HATU (1.3 g, 5.0 mmol, 1.1 eq.), morpholine (680 μL, 7.77 mmol, 1.7 eq.) and DIPEA (870 μL, 5.0 mmol, 1.1 eq.). Alternatively an additional equivalent of morpholine can be used in the reaction and CH2Cl2 can be used as the reaction solvent. The reaction is monitored by LC/MS. The reaction mixture is diluted with ethyl acetate (50 mL) and extracted with 0.5 M HCl (2×10 mL), saturated NaHCO3, and brine. The organic layer is dried over MgSO4, filtered and evaporated. The crude mixture is used in Step F directly or purified by normal-phase silica chromatography in a 20-50% ethyl acetate in hexanes gradient to provide 1-(4-(S)-Benzyl-2-oxo-oxazolidin-3-yl)-2-(R)-(2-cyclohexyl-ethyl)-4-morpholin-4-yl-butane-1,4-dione as a white solid (1.91 g, 4.18 mmol, 92%): 1H NMR (CDCl3, 400 MHz) δ 0.80-0.91 (m, 2H), 1.09-1.27 (m, 6H), 1.44-1.53 (m, 1H), 1.61-1.73 (m, 6H), 2.12 (s, 2H), 2.35 (dd, 1H, J=17.2, 4.0 Hz), 2.49 (dd, 1H, J=13.6, 9.6 Hz), 2.71 (dd, 1H, J=17.6, 10.8 Hz), 3.03 (dd, 1H, J=13.6, 3.2 Hz), 3.48-3.72 (m, 8H), 3.87-3.97 (m, 3H), 4.43 (m, 1H), 6.90-7.10 (m, 5H), 8.02 (s, 1H).

reactant | 3-(R)-(4-(S)-Benzyl-2-oxo-oxazolidine-3-carbonyl)-5-cyclohexyl-pentanoic acid | 4.53 mmol, 1.76 g, 1.0 eq. | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(=O)[C@@H](CC(=O)O)CCC1CCCCC1 | C22H29NO5
reactant | HATU | 5.0 mmol, 1.3 g, 1.1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | morpholine | 7.77 mmol, 680 μL, 1.7 eq. | N1CCOCC1 | C4H9NO
reactant | DIPEA | 5.0 mmol, 870 μL, 1.1 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(4-(S)-Benzyl-2-oxo-oxazolidin-3-yl)-2-(R)-(2-cyclohexyl-ethyl)-4-morpholin-4-yl-butane-1,4-dione | 4.18 mmol, 1.91 g, 92% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H](CC(=O)N1CCOCC1)CCC1CCCCC1)=O | C26H36N2O5
